US06071927
1-Benzyloxy-4-(2,2,2-trifluoroethoxy)benzene
To a solution of 4-benzyloxyphenol (5 g) and 2,2,2-trifluoroethyl-p-toluenesulphonate (5 g) in dimethylformamide (50 ml) was added sodium hydride (60% dispersion in oil, 2.3 g) and the solution heated to 110° C. for 16 h. The mixture was cooled, diluted with water and the product extracted into ethyl acetate. The organic phase was washed with water, brine and dried (MgSO4). The solvent was remove in vacuo and the residue chromatographed on silica gel (eluting with 10% diethyl ether/hexane) to give the the title compound as a solid, m.p. 72-74° C.

reactant | 4-benzyloxyphenol | 5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 2,2,2-trifluoroethyl-p-toluenesulphonate | 5 g | FC(COS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C9H9F3O3S
reactant | sodium hydride | 2.3 g | [H-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Benzyloxy-4-(2,2,2-trifluoroethoxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC(F)(F)F | C15H13F3O2
